US09371320B2
A) 4-(4-bromophenyl)thiomorpholine
A mixture of 1,4-dibromobenzene (1.0 g), thiomorpholine (0.44 g), tris(dibenzylideneacetone)dipalladium(0) (0.097 g), 2,2′-bis(diphenylphosphino)-1,1′-binaphthyl (0.20 g) and sodium tert-butoxide (0.49 g) in toluene (10 mL) was stirred at 80° C. for 16 hr. To the reaction mixture was added water, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (0.82 g).

reactant | 1,4-dibromobenzene | 1.0 g | BrC1=CC=C(C=C1)Br | C6H4Br2
reactant | thiomorpholine | 0.44 g | N1CCSCC1 | C4H9NS
reactant | 2,2′-bis(diphenylphosphino)-1,1′-binaphthyl | 0.20 g | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
reactant | sodium tert-butoxide | 0.49 g | CC(C)([O-])C.[Na+]
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.097 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | water | O | H2O
product | 4-(4-bromophenyl)thiomorpholine | 0.82 g | BrC1=CC=C(C=C1)N1CCSCC1 | C10H12BrNS
